US05618839
3,3-Dimethyl-6-nitro-indan-1-one
To a solution of 3,3-dimethylindan-1-one (LXIV) (16.3 g, 50.9 mmol) (Harms, W. M. and Eisenbraum, E. J. Org. Prep. Proc. Int. 1972, 4, 67-72) in 56 mL of sulfuric acid was slowly added 4.18 mL of 70% nitric acid in 20 mL of sulfuric acid at 0°-5° C. After being stirred for 1 hour, the reaction mixture was poured into 600 g of ice. The precipitates was filtered and washed with water. The solids collected were dissolved in 600 mL of ethyl acetate and washed with NaHCO3 (80 mL×2), dried over magnesium sulfate, and evaporated. The residue was triturated with methanol to give 22.2 g of the title compound as yellow solids; 1H-NMR (CDCl3) δ1.49 (s, 6H), 2.71 (s, 2H), 7.68 (d, J=8.4 Hz, 1H), 8.48 (dd, J=2.0, 8.4 Hz, 1H), 8.53 (d, J=2.0 Hz, 1H); MS m/e 206 (MH+).

reactant | 3,3-dimethylindan-1-one | 50.9 mmol, 16.3 g | CC1(CC(C2=CC=CC=C12)=O)C | C11H12O
reactant | nitric acid | 4.18 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 56 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
product | 3,3-Dimethyl-6-nitro-indan-1-one | 22.2 g | CC1(CC(C2=CC(=CC=C12)[N+](=O)[O-])=O)C | C11H11NO3
